US04051254
3-methyl-4-(α-chloropropionamido)phenyl N-methylcarbamate
Utilizing benzene and chloroform as the solvent and triethylamine as the acid acceptor, 3-methyl-4-aminophenyl N-methylcarbamate (2.5g., 0.0139 mole) was reacted with α-chloropropionyl chloride (1.79g., 0.0141 mole) to yield the desired product as a white powder (3.6g.). Recrystallization from ethanol/water to give material with m.p. 167°-70° C.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.0139 mole, 2.5g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | α-chloropropionyl chloride | 0.0141 mole, 1.79g | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-methyl-4-(α-chloropropionamido)phenyl N-methylcarbamate | 3.6g | CNC(OC1=CC(=C(C=C1)NC(C(C)Cl)=O)C)=O | C12H15ClN2O3
